US07608639B2
3-{2-Methyl-4-[4-methyl-3-(2-phenoxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
The compound of 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-4-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester is reacted with phenol as in Example 45 to afford 0.256 g (57%) of the title compound. 1H NMR (400 MHz, CDCl3); HRMS (ES+) m/z exact mass calculated for C30H26O5F3 523.1732, found 523.1749.

reactant | 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-4-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 3-{2-Methyl-4-[4-methyl-3-(2-phenoxy-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | 0.256 g, 57% | CC1=C(C=CC(=C1)OC1=CC(=C(C=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)OC1=CC=CC=C1)CCC(=O)O | C30H25F3O5
